US06518286B1
2-[3-{2-[4-(4Fluorobenzoyl)-1-piperidinyl]ethyl}-2,4-dioxo-3,4-dihydro-1(2H)-quinazolinyl]-N,N-dimethylacetamide hydrochloride
3-{2-[4-(4-Fluorobenzoyl)-1-piperidinyl]ethyl}-2,4(1H,3H)-quinazolinedione was dissolved in DMF (5 ml) and NaH (60% dispersion in mineral oil) added. After 0.5 hours, 2-chloro-N,N-dimethylacetamide was added and the solution stirred at room temperature for 16 hours. Water and ethyl actetate were added, the organic phase separated, dried and concentrated to an oil. Purification by chromatography (dichloromethane:methanol 95:5) gave an oil which was treated with 1.0 M ethereal hydrogen chloride solution to give the titled product as a solid(0.015 g).

reactant | 3-{2-[4-(4-Fluorobenzoyl)-1-piperidinyl]ethyl}-2,4(1H,3H)-quinazolinedione | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC3=CC=CC=C3C2=O)=O)C=C1 | C22H22FN3O3
reactant | NaH | [H-].[Na+]
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
reactant | hydrogen chloride | 1.0 M | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-[3-{2-[4-(4Fluorobenzoyl)-1-piperidinyl]ethyl}-2,4-dioxo-3,4-dihydro-1(2H)-quinazolinyl]-N,N-dimethylacetamide hydrochloride | 0.015 g | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(N(C3=CC=CC=C3C2=O)CC(=O)N(C)C)=O)C=C1 | InChI=1S/C26H29FN4O4.ClH/c1-28(2)23(32)17-31-22-6-4-3-5-21(22)25(34)30(26(31)35)16-15-29-13-11-19(12-14-29)24(33)18-7-9-20(27)10-8-18;/h3-10,19H,11-17H2,1-2H3;1H
